US07763657B2
3-[4-tert-Butyl-2-(2-methoxyethoxy)phenyl]acrylic acid ethyl ester (40.4 mg, 0.132 mmol, 1 eq) and sodium hydroxide (52.8 mg, 1.32 mmole, 10 eq) were added in methanol and H2O. The reaction mixture was purified according to step 2 of Example 22 to give 3-[4-tert-Butyl-2-(2-methoxyethoxy)phenyl]acrylic acid (36.5 mg, 77.3%). 3-[4-tert-Butyl-2-(2-methoxyethoxy)-phenyl]acrylic acid (26.4 mg, 0.095 mmol, 1 eq.), Diethylcyanophosphine (17.3 μl, 0.114 mmol, 1.2 eq), N-(4-Aminomethyl-2-fluoro-6-vinylphenyl)methanesulfonamide (40.8 mg, 0.1114 mol, 1.2 eq.), and Triethylamine (39.7 μl, 0.285 mmol, 3 eq) were added in DMF. The mixture was stirred for overnight at room temperature. The reaction mixture was purified according to Example 17 to give a whitish solid (28.4 mg, 59.2%).

reactant | 3-[4-tert-Butyl-2-(2-methoxyethoxy)phenyl]acrylic acid ethyl ester | 0.132 mmol, 40.4 mg, 1 eq | C(C)OC(C=CC1=C(C=C(C=C1)C(C)(C)C)OCCOC)=O | C18H26O4
reactant | sodium hydroxide | 1.32 mmole, 52.8 mg, 10 eq | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | H2O | O | H2O
product | 3-[4-tert-Butyl-2-(2-methoxyethoxy)phenyl]acrylic acid | 36.5 mg, 77.3% | C(C)(C)(C)C1=CC(=C(C=C1)C=CC(=O)O)OCCOC | C16H22O4
